US06355636B1
6-Ethoxy-4-hydroxyl-[1.5]naphthyridine-3-carbonitrile
A sample of 2-cyano-3-(6-ethoxy-pyridin-3-ylamino)-acrylic acid ethyl ester was heated at 257-259° C. (internal temperature) in Dowtherm for 10-12 hrs under nitrogen. After cooling, the reaction mixture was poured into n-hexane. The black solid was collected, and treated with MeOH and CH2Cl2 mixture (1:5). The title compound (or tautomer) was collected and dried mass spectrum (electrospray, m/e): 215.9 (M+H); IR cm-1: 3063, 2226; H-NMR δ(DMSO-d6): 1.355 (3H, t, CH3), 4.412 (2H, q, CH2), 7.244 (1H, d, C7-H), 7.983 (1H, d, C8-H), 8.682 (1H, s, C2-H), 10.50 (1H, bs, OH).

reactant | 2-cyano-3-(6-ethoxy-pyridin-3-ylamino)-acrylic acid ethyl ester | C(C)OC(C(=CNC=1C=NC(=CC1)OCC)C#N)=O | C13H15N3O3
reactant | n-hexane | CCCCCC | C6H14
solvent | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 6-Ethoxy-4-hydroxyl-[1.5]naphthyridine-3-carbonitrile | C(C)OC=1N=C2C(=C(C=NC2=CC1)C#N)O | C11H9N3O2
